### PR TITLE
[Merged by Bors] - feat: injective bilinear pairing V→W* with V f.d. induces surjective W→V*

### PR DESCRIPTION
**Pull request by alreadydone**
From the Hairer challenge

+ add `flip_in/sur/bijective_iff₁₂`: if either of the spaces V and W is finite-dimensional, a linear map `V → W*` is injective/surjective/bijective iff the flipped map `W → V*` is surjective/injective/bijective.

+ also add consequence for SeparatingDual from the [projective space thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Projective.20space/near/392642695) (cc @smorel394)

+ remove the `FiniteDimensional` condition from `dual_finrank_eq`, `finrank_range_dualMap_eq_finrank_range`, and `dualMap_injective/bijective_iff`, completing two TODO items by @kmill

+ add two lemmas `toDual_injective` and `finite_dual_iff`

+ golf several proofs in LinearAlgebra/Dual

Co-authored-by: Kyle Miller <kmill31415@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dual.lean [hunk 1]
```diff
@@ -1231,6 +1231,15 @@ theorem finrank_add_finrank_dualCoannihilator_eq (W : Subspace K (Module.Dual K
...
 #align subspace.finrank_add_finrank_dual_coannihilator_eq Subspace.finrank_add_finrank_dualCoannihilator_eq
 
+theorem _root_.LinearMap.flip_surjective_of_injective {B : V →ₗ[K] Module.Dual K V₁}
+    (hB : Function.Injective B) : Function.Surjective B.flip := by
+  rw [← range_eq_top]
+  apply eq_top_of_finrank_eq
+  rw [dual_finrank_eq, eq_comm, ← finrank_add_finrank_dualCoannihilator_eq,
+      add_right_eq_self, finrank_eq_zero, eq_bot_iff]
+  refine fun x hx ↦ hB (ext fun v ↦ ?_)
+  simpa using (mem_dualCoannihilator x).mp hx _ (mem_range_self _ v)
```
Comment (kmill) [inline Mathlib/LinearAlgebra/Dual.lean:1241]: You can generalize this to these:
```lean
theorem injective_flip_iff [FiniteDimensional K V₁] {B : V₁ →ₗ[K] V₂ →ₗ[K] K} :
    Function.Injective B.flip ↔ Function.Surjective B := by
  rw [← dualMap_surjective_iff]
  rw [← Equiv.surjective_comp (Module.evalEquiv K V₁).toEquiv]
  rfl

theorem surjective_flip_iff [FiniteDimensional K V₂] {B : V₁ →ₗ[K] V₂ →ₗ[K] K} :
    Function.Surjective B.flip ↔ Function.Injective B := by
  rw [← injective_flip_iff]
  rfl
```
They can go right after `LinearMap.dualMap_surjective_iff`.

I think it's nicer stating them as bilinear forms directly rather than using `Module.Dual`, since `flip` unfolding the definition is a little obscure.

(Do you think these can be generalized further?)

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual.lean:1241]: Unfortunately, you're proving different results than what I want; I'd like to have [FiniteDimensional K V₁]` instead (V1 rather than V2) in
```
theorem surjective_flip_iff [FiniteDimensional K V₂] {B : V₁ →ₗ[K] V₂ →ₗ[K] K} :
```
Your version is more restrictive, because if V2 is f.d. and B is injective, then V1 is also f.d., while my version allows the possibility of V2 being infinite dimensional. I can't think of a shorter proof of my version at this moment ...

I think your results are still interesting and I'll include them. To distinguish with my version (upgraded to iff), I will use subscripts 1 and 2 to indicate which space needs to be finite dimensional. I'll use the name `flip_surjective_iff` following the convention of `dualMap_surjective_iff` etc. 

I think the result probably generalize to division rings if you put a mop somewhere, but I'm not in a position to generalize the Dual file ...

Comment (kmill) [reply Mathlib/LinearAlgebra/Dual.lean]: Ah, ok, I wasn't looking carefully enough that only one was using the finite dimensionality hypothesis. By the way, I just became aware of the PerfectPairing module due to #8824. There's a `flip` specifically for maps to the dual over there.

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 2]
```diff
@@ -73,6 +75,26 @@ section Field
 variable {R V : Type*} [Field R] [AddCommGroup V] [TopologicalSpace R] [TopologicalSpace V]
   [TopologicalRing R] [TopologicalAddGroup V] [Module R V] [SeparatingDual R V]
 
+-- this could generalize to CommRing R if we were to add a section
+theorem _root_.separatingDual_iff_injective : SeparatingDual R V ↔
+    Function.Injective (ContinuousLinearMap.coeLM (R := R) R (M := V) (N₃ := R)).flip := by
+  simp_rw [separatingDual_def, Ne, injective_iff_map_eq_zero]
+  refine forall_congr' fun v ↦ ?_
```
Comment (kmill) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:82]: I haven't checked in lean, but I'm guessing the syntax would be `congrm ∀ v, ?_`, which I think is more readable.

Comment (alreadydone) [reply Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean]: It works, thanks!

File: Mathlib/LinearAlgebra/Dual.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual.lean]: It's mentioned in the PR title :) It might be the case that reflexivity is a more natural setting for all these results than f.g. free modules or f.d. vector spaces, and if true we could consider another PR to change everything systematically.

**Review by alreadydone — COMMENTED** [review]
In my latest [commit](https://github.com/leanprover-community/mathlib4/pull/8820/commits/12aa88dd56cd74772903347fcc77397fccfec67c) I golfed some proofs and managed to remove the FiniteDimensional condition from `dual_finrank_eq`, `finrank_range_dualMap_eq_finrank_range`, and `dualMap_injective/bijective_iff`, completing two TODO items by @kmill. I think they're within scope as they are very relevant to the `flip` results and even used to prove them. Also cc @themathqueen (author of [#18228](https://github.com/leanprover-community/mathlib/pull/18228))

**Comment by alreadydone** [comment]
I've now spun out another PR #9124 based on this one. If everything looks good can we merge this soon?

File: Mathlib/LinearAlgebra/Dual.lean [hunk 3]
```diff
@@ -1433,15 +1387,9 @@ theorem dualPairing_nondegenerate : (dualPairing K V₁).Nondegenerate :=
...
-  let f' := LinearEquiv.ofInjective f hf
-  use Subspace.dualLift (range f) (f'.symm.dualMap φ)
-  ext x
-  rw [LinearMap.dualMap_apply, Subspace.dualLift_of_mem (mem_range_self f x),
-    LinearEquiv.dualMap_apply]
-  congr 1
-  exact LinearEquiv.symm_apply_apply f' x
+    Function.Surjective f.dualMap := fun φ ↦
+  have ⟨f', hf'⟩ := f.exists_leftInverse_of_injective (ker_eq_bot.mpr hf)
+  ⟨φ.comp f', ext fun x ↦ congr_arg φ (FunLike.congr_fun hf' x)⟩
```
Comment (kmill) [inline Mathlib/LinearAlgebra/Dual.lean:1392]: Something like this probably works. You might even be able to put a forall into the `congr(...)` and remove the `ext`.
```suggestion
  ⟨φ.comp f', ext fun x ↦ congr(φ $hf' x)⟩
```
This is not something you need to change for this PR though.

**Review by kmill — COMMENTED** [review]
The only thing I really would like to see before merging is that you more clearly document that TODO item.

Thanks!

bors d+

File: Mathlib/LinearAlgebra/Dual.lean [hunk 4]
```diff
@@ -609,9 +603,9 @@ Any finitely-generated free module (and thus any finite-dimensional vector space
 See `Module.IsReflexive.of_finite_of_free`. -/
 class IsReflexive : Prop where
   /-- A reflexive module is one for which the natural map to its double dual is a bijection. -/
-  bijective_dual_eval' : Bijective $ Dual.eval R M
+  bijective_dual_eval' : Bijective (Dual.eval R M)
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual.lean:606]: Yeah people have been requesting switching from $ to <| in PR reviews, so since I was at it, I just took the liberty to fix these few. I hope the author @ocfnash is okay with the changes! (In fact this was added directly to mathlib4 in [#4989](https://github.com/leanprover-community/mathlib4/commit/e6733eceaa63e98580cb8b30029664641347ce06#diff-1a470a10fd05f0eedb570bfbbe37c36b1a2472e9dc4c78aa7fc070d33ec2c2d2R591-R593).) As for why I changed it to parentheses instead of <|, it's because I don't see the point of using <| (which consumes one more character) when there's no nested parentheses at all.

File: Mathlib/LinearAlgebra/Dual.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual.lean]: Thanks! `congr(φ <| $hf' x)` works.

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 5]
```diff
@@ -73,6 +75,26 @@ section Field
 variable {R V : Type*} [Field R] [AddCommGroup V] [TopologicalSpace R] [TopologicalSpace V]
   [TopologicalRing R] [TopologicalAddGroup V] [Module R V] [SeparatingDual R V]
 
+-- this could generalize to CommRing R if we were to add a section
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean]: added TODO

File: Mathlib/LinearAlgebra/Dual.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Dual.lean:606]: I’m travelling sans laptop so do what you like 😀

[the remark this answers is not in the document]
Comment (kmill) [reply Mathlib/LinearAlgebra/Dual.lean:606]: The main purpose of my comment was to mention a principle that I think is important to follow: in a feature PR, do not make unrelated cosmetic changes or style improvements.

I hope nobody has been requesting switching `$` to `<|` on unrelated lines not touched by a PR. This is what style PRs are for.

My point was *if* you're going to break this rule and have activities outside [the type of the commit](https://leanprover-community.github.io/contribute/commit.html), then I think it's better if you are conservative about it (hence why I suggested that sticking to an analogous style would be better).

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual.lean:606]: I see, thanks for the clarification!
